US04980356
2-(2-Imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanol may be prepared according to the following process: 2-amino-6-trifluoromethoxybenzothiazole (9.4 g) and 2-bromoethanol (10 g) in absolute ethanol (30 cc) are heated for 95 hours to boiling. The mixture is then cooled to a temperature in the region of 20° C. The precipitate formed is filtered off and washed with ethyl ether (100 cc). 2-(2-Imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanol hydrobromide (6.4 g), m.p. 219° C., is obtained.

reactant | 2-(2-Imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanol | N=C1SC2=C(N1CCO)C=CC(=C2)OC(F)(F)F | C10H9F3N2O2S
reactant | 2-amino-6-trifluoromethoxybenzothiazole | 9.4 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | 2-bromoethanol | 10 g | BrCCO | C2H5BrO
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | 2-(2-Imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanol hydrobromide | 6.4 g | Br.N=C1SC2=C(N1CCO)C=CC(=C2)OC(F)(F)F | InChI=1S/C10H9F3N2O2S.BrH/c11-10(12,13)17-6-1-2-7-8(5-6)18-9(14)15(7)3-4-16;/h1-2,5,14,16H,3-4H2;1H
